data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_367359_2,[C:1]([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])(/[C:5]([N:7]([H:10])[H:11])=[N:8]/[H:12])[C:6]([C:4]([H:19])([H:20])[H:21])=[O:9]>>[C:1]1([C:2]([H:13])([H:15])[H:16])([C:3]([H:14])([H:17])[H:18])[C@:6]([C:4]([H:19])([H:20])[H:21])(/[C:5]([N:7]([H:10])[H:11])=[N:8]/[H:12])[O:9]1,65.6823075000301
MR_152194_1,[C:1]1([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C:5]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])([H:8])[N:7]1[H:9]>>[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])(/[C:5]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])=[N:7]/[H:9])[H:8],65.78207999999222
MR_328093_1,[C:1]([N:3]([H:9])[H:10])([O:5][C:2]([N:4]([H:8])[H:11])=[O:7])=[O:6]>>[C:1]([N:3]([H:9])[H:10])(=[O:5])[O:6][C:2]([N:4]([H:8])[H:11])=[O:7],27.63259000000346
MR_65099_2,[C:1]([C:4](/[N:2]=[N:3]/[H:6])([O:5][H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([N:2]([N:3]([H:6])[H:7])[C:4](=[O:5])[H:8])([H:9])([H:10])[H:11],33.185337500037804
MR_258470_1,[C:1](/[C:2](=[C:3](/[O:6][H:9])[H:12])[O:4][H:7])([O:5][H:8])([H:10])[H:11]>>[C:1](=[C:2](/[C:3]([O:6][H:9])([H:11])[H:12])[O:4][H:7])(\[O:5][H:8])[H:10],61.91040500002956
MR_40009_1,[C:1](/[N:3]=[N:7]\[C:4]([C:2]([H:14])([H:15])[H:16])([N:5]([H:9])[H:10])[O:6][H:8])([H:11])([H:12])[H:13]>>[C:1]([N:3]([O:6][H:8])/[N:7]=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:5]([H:9])[H:10])([H:11])([H:12])[H:13],63.866322499978025
MR_67080_1,[C:1]([C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])=[O:6])([N:5]([H:8])[H:9])([H:10])[H:11]>>[C@:1]([C:3](=[O:6])[H:11])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])([N:5]([H:8])[H:9])[H:10],44.15340999998975
MR_261224_0,[C:1](/[C:6](=[C:3]([C:2](/[N:5]([H:12])[H:13])=[N:8]/[N:4]([H:10])[H:11])\[O:7][H:9])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]1([H:14])[C:3]([O:7][H:9])=[C:2]([N:5]([H:12])[H:13])[N:8]1[N:4]([H:10])[H:11])([H:15])([H:16])[H:17],46.43688250000295
MR_458026_1,[C:1](/[C:3](=[C:4](\[N:2]([N:6]=[O:7])[H:9])[H:10])[O:5][H:8])([H:11])([H:12])[H:13]>>[C:1]([C:3]1([O:5][H:8])[N:2]([H:9])[C:4]1([N:6]=[O:7])[H:10])([H:11])([H:12])[H:13],64.9807624999822
MR_119581_2,[C:1]([N:2]([C:4](=[C:5]([H:14])[H:15])[H:10])/[N:7]=[C:3](\[O:6][H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1](/[N:2]=[N:7]/[C:3]([C:4](=[C:5]([H:14])[H:15])[H:10])([O:6][H:8])[H:9])([H:11])([H:12])[H:13],65.1031249999943
MR_688518_0,[N:1](/[C:2]([N:3]([H:9])[H:10])=[C:5](/[N:4]([H:11])[H:12])[H:13])([N:6]=[O:7])[H:8]>>[N:1](=[C:2](\[N:3]([H:9])[H:10])[C:5]([N:4]([H:11])[H:12])([N:6]=[O:7])[H:13])\[H:8],22.818409999994884
MR_492877_0,[C:1]12([H:9])[N:5]([N:3]([H:8])[C:4]([C:2]([H:11])([H:12])[H:13])=[N:7]1)[N:6]2[H:10]>>[C:1]1([H:9])([H:10])[N:6]=[N:5][N:3]([H:8])[C:4]([C:2]([H:11])([H:12])[H:13])=[N:7]1,43.20902250001993
MR_543405_0,[C@@:1]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])([N:5]([H:12])[H:13])(/[C:6](=[N:7]/[N:4]([H:10])[H:11])[H:14])[H:9]>>[C@@:1]1([N:5]([H:12])[H:13])([H:9])[C@@:6]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])([H:14])[N:7]1[N:4]([H:10])[H:11],58.90593500001757
MR_173037_2,[C:1]([C:3](=[O:6])[H:9])(/[C:4](=[C:2](/[O:5][H:7])[H:8])[H:12])([H:10])[H:11]>>[C:1](=[C:4]([C:2]([C:3](=[O:6])[H:9])([O:5][H:7])[H:8])[H:12])([H:10])[H:11],65.8774600000011
MR_524789_1,[C:1]([C:5]1=[C:7]([H:13])[C:4]2([C:3]([N:6]([H:11])[H:12])=[O:9])[N:2]([H:10])[N:8]21)([H:14])([H:15])[H:16]>>[C:1]([c:5]1[c:7]([H:13])[c:4]([C:3]([N:6]([H:11])[H:12])=[O:9])[n:2]([H:10])[n:8]1)([H:14])([H:15])[H:16],22.029642499988853
MR_207078_1,[C:1]([N:5]([C:2]([H:14])([H:15])[H:16])[H:9])([N:7]([H:11])[H:12])([C:8](=[C:6]([C:3]([H:17])([H:18])[H:21])[C:4]([H:19])([H:20])[H:22])[H:13])[H:10]>>[C:1](\[N:7]([H:11])[H:12])(=[C:8](\[C:6]([C:3]([H:17])([H:18])[H:21])([C:4]([H:19])([H:20])[H:22])[N:5]([C:2]([H:14])([H:15])[H:16])[H:9])[H:13])[H:10],69.79117750000029
MR_249116_1,[C:1](=[C:2](\[C:5](=[C:6]([H:15])[H:16])[H:14])[N:8]([H:9])[H:12])(\[N:3]([H:10])[H:11])[C:4](=[O:7])[H:13]>>[C:1](/[C:2]([C:5](=[C:6]([H:15])[H:16])[H:14])=[N:8]\[H:12])([N:3]([H:10])[H:11])=[C:4](/[O:7][H:9])[H:13],38.8817824999947
MR_244631_1,[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])=[O:8])([O:4][O:5][H:9])([O:6][H:10])[O:7][H:11]>>[C:1]([C:3]([C:2]([H:12])([H:13])[H:14])([O:4][O:5][H:9])[O:8][H:11])([O:6][H:10])=[O:7],26.7766799999886
MR_635459_1,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[C:4]([N:6]([H:13])[H:14])=[O:8])([N:5]([H:11])[H:12])([O:7][H:9])[H:10]>>[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[C:4]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[O:8][H:9])(=[O:7])[H:10],54.10242250001773
MR_193544_1,[C:1]([C:4]([C:2]12[C:6]([H:12])=[C:3]([N:5]([H:10])[H:11])[N:8]1[O:7]2)=[O:9])([H:13])([H:14])[H:15]>>[C:1]([C:4]([c:2]1[c:6]([H:12])[c:3]([N:5]([H:10])[H:11])[n:8][o:7]1)=[O:9])([H:13])([H:14])[H:15],20.338529999978192
